* source ADJUSTABLEVOLTAGEREGULATOR
V_V1         N00107 0 DC 9 AC 0 0
X_U1         N00107 N04014 N03179 LM317
D_D1         N03179 N00107 D1N4001 
C_C1         N03967 N04014  1u  TC=0,0 
D_D6         N04014 N03179 D1N4001 
X_U2         N11052 N03967 N00107 N10981 N03967 LM675
R_R5         0 N11052  10k TC=0,0 
R_R6         N11052 N10981  30k TC=0,0 
V_V2         0 N10981 DC 5V AC 0 0
R_R7         N04014 N03179  252 TC=0,0 
C_C2         N03967 N03179  1u  TC=0,0 
R_R8         N03967 N04014  {R_ADJ} TC=0,0 
.PARAM  rval=2k
